US06960581B2
2-Phenyl-2,2-dimethylethylmagnesium bromide (10 mmol, 20 mL of 0.5 M solution in diethyl ether) was added to solution of diethyl oxalate (1.5 g, 10.5 mmol) in anhydrous THF (20 mL) cooled to −78° C. and maintained under argon. After 1 hour, TLC in hexanes-EtOAc (7:1) indicated most of the diethyl oxalate had been consumed. The reaction mixture was quenched with a saturated solution of ammonium chloride and extracted with three 50 mL portions of EtOAc. The combined extracts were dried over anhydrous sodium sulfate and concentrated in vacuo to give a light brown, thick oil which was purified by flash column chromatography over silica gel eluting with 5% EtOAc in hexanes to yield 4-methyl-2-oxo-4-phenylpentanoic acid ethyl ester as a light yellow oil (1.1 g, 51%).

reactant | 2-Phenyl-2,2-dimethylethylmagnesium bromide | 10 mmol, 0.5 M, 20 mL | C1(=CC=CC=C1)C(C[Mg]Br)(C)C
reactant | diethyl oxalate | 10.5 mmol, 1.5 g | C(C(=O)OCC)(=O)OCC | C6H10O4
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-methyl-2-oxo-4-phenylpentanoic acid ethyl ester | 1.1 g, 51% | C(C)OC(C(CC(C)(C1=CC=CC=C1)C)=O)=O | C14H18O3
